US06054260
Preparation of 1-Methyl-1-acetyl-4-{4-(N-methyl-N-carboethoxymethylamino)phenyl}-3-thiosemicarbazide.
A solution of 1.25 g (5.0 mmol) of ethyl N-methyl-N-(4-isothiocyanatophenyl)glycinate and 0.44 g (5.0 mmol) of 1-methyl-1-acetylhydrazine in 40 ml of 1/1 isoproply alcohol/ether was left uncovered so the ether could evaporate over a 24 hr period. The product was collected and washed with isopropyl alcohol to give 1.32 g (3.9 mmol, 78%), mp 162° dec?. Anal. C15H22N4O3S (338): Calcd.: C,53.24; H,6.55; N,16.56; S,9.48. Found: C,53.12; H, 6.45; N,17.05; S,8.90. MS(FD) m/z 338. 1H NMR(DMSO-d6)δ: 9.76,s,2H,NH; 7.11,d,2H,ArH; 6.58,d,2H,ArH; 4.15,s,2H,CH2--N; 4.05,q,2H,CH2--O; 2.93,s,3H,CH3--N; 1.92,s,3H,CH3CO; 1.14,t,3H,CH3--C.

reactant | ethyl N-methyl-N-(4-isothiocyanatophenyl)glycinate | 5.0 mmol, 1.25 g | CN(CC(=O)OCC)C1=CC=C(C=C1)N=C=S | C12H14N2O2S
reactant | 1-methyl-1-acetylhydrazine | 5.0 mmol, 0.44 g | CN(N)C(C)=O | C3H8N2O
reactant | isoproply alcohol ether | C(C)(C)O.CCOCC
solvent | ether | CCOCC | C4H10O
product | 1-Methyl-1-acetyl-4-{4-(N-methyl-N-carboethoxymethylamino)phenyl}-3-thiosemicarbazide | CN(NC(=S)NC1=CC=C(C=C1)N(CC(=O)OCC)C)C(C)=O | C15H22N4O3S
